US08044041B2
Synthesis of 6-(4-Methoxy-benzylamino)-2H-phthalazin-1-one
A mixture of 6-bromo-2H-phthalazin-1-one (50 mg, 0.22 mmol), 4-methoxybenzylamine (0.030 mL, 0.24 mmol), Pd2(dba)3 (20 mg, 0.022 mmol), rac-BINAP (41 mg, 0.066 mmol) and NaOt-Bu (52 mg, 0.55 mmol) in toluene (10 mL) was heated at reflux for 3 h. The mixture was allowed to cool, diluted with EtOAc (25 mL) and washed with NaHCO3 (25 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. Chromatography on silica (EtOAc/hexanes) yielded the title compound (22 mg, 35%). 1H-NMR (DMSO-d6) δ: 12.1 (s, 1H), 8.05 (s, 1H), 7.88 (d, 1H), 7.30 (m, 3H), 7.10 (dd, 1H), 6.90 (d, 2H), 6.75 (s, 1H), 4.20 (d, 2H), 3.85 (s, 3H); m/z (M+1)=282.22.

reactant | 6-bromo-2H-phthalazin-1-one | 0.22 mmol, 50 mg | BrC=1C=C2C=NNC(C2=CC1)=O | C8H5BrN2O
reactant | 4-methoxybenzylamine | 0.24 mmol, 0.030 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | rac-BINAP | 0.066 mmol, 41 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 0.55 mmol, 52 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.022 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(4-Methoxy-benzylamino)-2H-phthalazin-1-one | 22 mg, 35% | COC1=CC=C(CNC=2C=C3C=NNC(C3=CC2)=O)C=C1 | C16H15N3O2
